US08912186B2
2-(4-Chlorophenyl)succinic acid 4-monoethylester (1.11 g) was converted to the corresponding acid chloride by treatment with oxalyl chloride (0.7 ml) in dichloromethane (3 ml) and catalytic amounts of N,N-dimethylformamide (0.5 h at rt, then 0.5 h reflux). All volatiles were removed in vacuo and the crude acid chloride dissolved in dichloromethane (4 ml). This solution was added dropwise to a stirred, ice-cold solution of 5-chloroisoindoline (0.86 g) and triethyl amine (1.7 ml) in dichloromethane (6 ml). After the addition the cooling bath was removed and the solution stirred at rt for 1.5 h. Then the organic layer was diluted with dichloromethane (50 ml), extracted two times with 1M HCl (50 ml), and dried (sodium sulfate). After removal of the solvent the crude was purified by flash chromatography on silica gel (petrol ether/ethyl acetate 2:1) to afford ethyl 4-(5-chloro-2-isoindolinyl)-3-(4-chlorophenyl)-4-oxobutanoate (1.13 g) as amorphous, colourless solid.

reactant | 2-(4-Chlorophenyl)succinic acid 4-monoethylester | 1.11 g | C(C)OC(CC(C(=O)O)C1=CC=C(C=C1)Cl)=O | C12H13ClO4
reactant | oxalyl chloride | 0.7 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | ethyl 4-(5-chloro-2-isoindolinyl)-3-(4-chlorophenyl)-4-oxobutanoate | 1.13 g | ClC=1C=C2CN(CC2=CC1)C(C(CC(=O)OCC)C1=CC=C(C=C1)Cl)=O | C20H19Cl2NO3
